US07521419B2
17-amino-5-oxo-6-aza-3,9,12,15-tetraoxaheptadecanoic Acid
A solution of 17-azido-5-oxo-6-aza-3,9,12,15-tetraoxaheptadecanoic acid (8.36 g, 25.0 mmol) in water (100 ml) was reduced using H2 (g)-Pd/C (10%). The reaction was run until LC-MS analysis showed complete conversion of starting material (column Vydac 218TP54; solvents: A=water/0.1% TFA and B=acetonitrile/0.1% TFA; gradient 4-16% B over 20 min; flow 1.0 ml/min; UV detection at 214 and 284 nm, ES ionisation giving M+H at 335 for starting material and 309 for the product). The solution was filtered and used directly in the next step.

reactant | 17-azido-5-oxo-6-aza-3,9,12,15-tetraoxaheptadecanoic acid | 25.0 mmol, 8.36 g | N(=[N+]=[N-])CCOCCOCCOCCNC(COCC(=O)O)=O | C12H22N4O7
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 17-amino-5-oxo-6-aza-3,9,12,15-tetraoxaheptadecanoic Acid | NCCOCCOCCOCCNC(COCC(=O)O)=O | C12H24N2O7
